US04172829
2-Isobutoxy-9-cyclohexyl-9H-adenine
The procedure of Example 8 was repeated except that the 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine used therein was replaced by an equivalent weight of 9-(2-cyclohexenyl)-2-isobutoxy-9H-adenine. There was produced the title product in 60% yield; m.p. 123°-134° C. IR(neat): 3320, 3160, 2940, 1635, 1590, 1395, 1375 cm-1. UV: λmaxEtOH 253 nm(ε 7000), 269 nm(ε 11000). NMR(CDCl3): 1.05(6H, d, J=6.5 Hz), 1.90(11H, m), 4.05(2H, d, J=6.5 Hz), 4.24(1H, m), 6.14(2H, s), 7.55(1H, s).

reactant | 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCC | C13H17N5O
reactant | 9-(2-cyclohexenyl)-2-isobutoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCC(C)C | C15H21N5O
product | 2-Isobutoxy-9-cyclohexyl-9H-adenine | 60% yield | C(C(C)C)OC1=NC(=C2N=CN(C2=N1)C1CCCCC1)N | C15H23N5O
